US09359381B2
Step 5: (7S)-Methyl 10-hydroxy-1,3-dimethyl-2,4-dioxo-5-phenyl-1,2,3,4,7,8,9,10-octahydropyrimido[4,5-a]indolizine-7-carboxylate
Sodium borohydride (0.179 g, 4.72 mmol) was added slowly to a suspension of (S)-1,3-dimethyl-2,4,10-trioxo-5-phenyl-1,2,3,4,7,8,9,10-octahydropyrimido[4,5-a]indolizine-7-carboxylic acid (1.8 g, 4.72 mmol) in methanol (40 mL). The mixture was stirred at room temperature for 30 mins. The reaction was quenched with saturated NaHCO3(aq) and extracted with DCM. The organic phase was passed through a hydrophobic frit and evaporated under vacuum to afford the title compound.

reactant | Sodium borohydride | 4.72 mmol, 0.179 g | [BH4-].[Na+]
reactant | (S)-1,3-dimethyl-2,4,10-trioxo-5-phenyl-1,2,3,4,7,8,9,10-octahydropyrimido[4,5-a]indolizine-7-carboxylic acid | 4.72 mmol, 1.8 g | CN1C(N(C(C=2C1=C1C(CC[C@H](N1C2C2=CC=CC=C2)C(=O)O)=O)=O)C)=O | C19H17N3O5
reactant | methanol | 40 mL | CO | CH4O
product | (7S)-Methyl 10-hydroxy-1,3-dimethyl-2,4-dioxo-5-phenyl-1,2,3,4,7,8,9,10-octahydropyrimido[4,5-a]indolizine-7-carboxylate | OC1CC[C@H](N2C(=C3C(=C12)N(C(N(C3=O)C)=O)C)C3=CC=CC=C3)C(=O)OC | C20H21N3O5
